US06455521B1
In the same manner as in Example 77 and using 1,2,3,4-tetrahydro-8-methyl-[1]benzothieno[2,3-b][1,5]benzothiazepin-12(11H)-one, dichlorodicyano-p-benzoquinone and benzene, 8-methyl-[1]benzothieno[2,3-b][1,5]benzothiazepin-12(11H)-one is obtained.

reactant | 1,2,3,4-tetrahydro-8-methyl-[1]benzothieno[2,3-b][1,5]benzothiazepin-12(11H)-one | CC1=CC2=C(NC(C3=C(S2)SC2=C3CCCC2)=O)C=C1 | C16H15NOS2
reactant | dichlorodicyano-p-benzoquinone | ClC1=C(C(C(=C(C1=O)C#N)C#N)=O)Cl | C8Cl2N2O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 8-methyl-[1]benzothieno[2,3-b][1,5]benzothiazepin-12(11H)-one | CC1=CC2=C(NC(C3=C(S2)SC2=C3C=CC=C2)=O)C=C1 | C16H11NOS2
